US09422271B2
A mixture of 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carboxamide (500 mg, 1.79 mmol) and Lawesson's reagent (1.45 g, 3.58 mmol, 2.0 eq) in toluene (30 ml) and THF (20 ml) was stirred at 50° C. for 17 h, and then, concentrated. The residue was recrystallized with toluene to give the crude 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carbothioamide (2.3 g, directly used for the next step). LC-MS (m/z)=295.0 [M+H]+.

reactant | 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carboxamide | 1.79 mmol, 500 mg | ClC=1C(=NC(=NC1)C(=O)N)NC1=NNC(=C1)C1CC1 | C11H11ClN6O
reactant | Lawesson's reagent | 3.58 mmol, 1.45 g, 2.0 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carbothioamide | ClC=1C(=NC(=NC1)C(N)=S)NC1=NNC(=C1)C1CC1 | C11H11ClN6S
